US07884210B2
Hydrazine hydrate (1.76 g, 55 mmol) was added to a solution of trans-2-(4-propyloxycyclohexyl)-isoindole-1,3-dione (7.90 g, 27.5 mmol) in absolute EtOH (100 mL). The reaction was stirred at 50° C. for 3 h before the reaction mixture was filtered. The solvent was removed in vacuo and Et2O (250 mL) was added after stirring for 30 min the solid was filtered off and the filtrate was added 150 mL 1 N HCl, the phases were separated and the aqueous phase was washed with Et2O (150 mL) before 10 N NaOH was added (until pH=11-12). The aqueous phase was extracted with EtOAc (200 mL+2×100 mL) and the organic fractions were collected and dried (MgSO4) to give 3.11 g (72%) of trans-4-propoxy-cyclohexylamine.

reactant | Hydrazine hydrate | 55 mmol, 1.76 g | O.NN
reactant | trans-2-(4-propyloxycyclohexyl)-isoindole-1,3-dione | 27.5 mmol, 7.90 g | C(CC)O[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C17H21NO3
solvent | EtOH | 100 mL | CCO | C2H6O
product | trans-4-propoxy-cyclohexylamine | 3.11 g, 72% | C(CC)O[C@@H]1CC[C@H](CC1)N | C9H19NO
